### PR TITLE
Universal algebra: Definition of algebra

### PR DESCRIPTION
**Pull request by andreaslyn**
This is the second universal algebra pull request. The first one: https://github.com/HoTT/HoTT/pull/1007

### CODE REVIEW

**Comment by spitters** [comment]
LGTM.
@SkySkimmer what do you think?

File: theories/Classes/interfaces/ua_algebra.v [hunk 1]
```diff
@@ -0,0 +1,213 @@
...
+Definition arity_symboltype {σ} : SymbolType σ → nat
+  := length o dom_symboltype.
+
+(** An [Algebra] must provide a family of [Carriers σ] indexed by
+    [Sort σ]. These carriers are the "objects" (types) of the algebra. *)
+
+(* [Carriers] is a notation because it will be used for an implicit
+   coercion [Algebra >-> Funclass] below. *)
+
+Notation Carriers := (λ σ, Sort σ → Type).
```
Comment (SkySkimmer) [inline theories/Classes/interfaces/ua_algebra.v]: Why not `Notation Carriers σ := (Sort σ -> Type).`? I don't think you need to generate the beta redexes.

File: theories/Classes/interfaces/ua_algebra.v [hunk 2]
```diff
@@ -0,0 +1,213 @@
...
+(** An [Algebra σ] for a signature [σ] consists of a family [carriers :
+    Carriers σ] indexed by the sorts [s : Sort σ], and for each symbol
+    [u : Symbol σ], an operation of type [Operation carriers (σ u)],
+    where [σ u : SymbolType σ] is the symbol type of [u]. For each
+    sort [s : Sort σ], [carriers s] is required to be a set. *)
+
+Record Algebra {σ : Signature} : Type := BuildAlgebra
+  { carriers : Carriers σ
+  ; operations : ∀ (u : Symbol σ), Operation carriers (σ u)
+  ; hset_carriers_algebra : ∀ (s : Sort σ), IsHSet (carriers s) }.
```
Comment (SkySkimmer) [inline theories/Classes/interfaces/ua_algebra.v]: Why do we require carriers to be sets?

File: theories/Classes/interfaces/ua_algebra.v (hunk 1 above)
Comment (andreaslyn) [reply theories/Classes/interfaces/ua_algebra.v]: You are right. Good catch.

File: theories/Classes/interfaces/ua_algebra.v (hunk 2 above)
Comment (andreaslyn) [reply theories/Classes/interfaces/ua_algebra.v]: It was more convenient for my work. But it is more generic to remove the set requirement from the algebra definition, and add `IsTruncAlgebra` and `IsHSetAlgebra` typeclasses. I am working on it.

**Comment by andreaslyn** [comment]
@SkySkimmer @spitters what do think about it now?

File: theories/Classes/interfaces/ua_algebra.v [hunk 3]
```diff
@@ -0,0 +1,213 @@
...
+Lemma issig_algebra (σ : Signature) : SigAlgebra σ <~> Algebra σ.
+Proof.
+  unfold SigAlgebra.
+  issig (@BuildAlgebra σ) (@carriers σ) (@operations σ).
+Defined.
+
+(** To find a path between two algebras [A B : Algebra σ] it suffices
+    to find a path between the carriers and the operations. *)
+
+Lemma path_algebra `{Funext} {σ : Signature} (A B : Algebra σ)
```
Comment (SkySkimmer) [inline theories/Classes/interfaces/ua_algebra.v]: You shouldn't need funext for this now that the record doesn't contain `IsHSet`.
Also the proof may be cleaner done in direct style (destruct A, B then the equality proofs) rather than through the issig lemma.

File: theories/Classes/interfaces/ua_algebra.v (hunk 2 above)
Comment (spitters) [reply theories/Classes/interfaces/ua_algebra.v]: I'm not yet convinced that that would be right generalization.
Higher universal algebra would be something like:
https://www.irif.fr/_media/rencontres/pps2018/finster.pdf
But that's not what this formalization is about.

Of course, it might simplify the formalization of one can freely remove the set restriction.

Comment (mikeshulman) [reply theories/Classes/interfaces/ua_algebra.v]: Yeah, simply removing the truncation axiom from (say) a group doesn't give you the *right* notion of "higher group".  But it does give you a notion of (say) "wild group" that might nevertheless be useful for some purposes, like [wild categories](https://ncatlab.org/homotopytypetheory/show/wild+category) are.

Comment (andreaslyn) [reply theories/Classes/interfaces/ua_algebra.v]: I have just implemented set-level universal algebra, but it makes sense to have the right definition of algebra to allow for extending with higher universal algebra.

I have looked at https://www.irif.fr/_media/rencontres/pps2018/finster.pdf, but I am still not sure what the right definition is. Does it require a lot of changes to the current definition?

Comment (spitters) [reply theories/Classes/interfaces/ua_algebra.v]: Yes, I think it will require a lot of work.
However, as Mike suggest wild structures may be interesting, so if there's an easy way to remove the set level restriction it may be worth it. Otherwise, leave it for future work.

Comment (spitters) [reply theories/Classes/interfaces/ua_algebra.v]: @ericfinster may have a quick suggestion about the usefulness of "wild" universal algebra.

Comment (andreaslyn) [reply theories/Classes/interfaces/ua_algebra.v]: Removing the set level restriction is mostly straight forward. Then I can add `IsHSetAlgebra` arguments where the set level restriction is assumed.

File: theories/Classes/interfaces/ua_algebra.v (hunk 3 above)
Comment (andreaslyn) [reply theories/Classes/interfaces/ua_algebra.v]: Thanks. The proof is much cleaner now.

File: theories/Classes/interfaces/ua_algebra.v (hunk 2 above)
Comment (ericfinster) [reply theories/Classes/interfaces/ua_algebra.v]: Yes, I agree that "wild" structures can be very interesting.  Wild monoids (what topologists call H-spaces) have played a historically important role in topology and there are many beautiful theorems about them.  To some extent, it is even more surprising and interesting when we find objects which admit a structure of some finite level of coherence but cannot be completely to fully coherent one.  And there are examples of this in the literature.  The important thing is rather to understand the difference and not confuse the two things.

Comment (mikeshulman) [reply theories/Classes/interfaces/ua_algebra.v]: Note that a "wild group" is also known as a grouplike associative H-space.  So there are certainly uses for some wild algebraic structures at least!  Also in the special case of theories without axioms, a wild structure is trivially the same as a coherent one.

Fully coherent higher universal algebra would almost certainly require a totally different approach along the lines of Eric's work.
